US05047411
A mixture of 2-[2-(4-amino-3-hydroxyphenyl)ethyl]-7-methylimidazo[1,2-a]pyridine (1.5 g) and cyanogen bromide (0.7 g) in ethanol (25 ml) was stirred for 2 hours at ambient temperature. To the reaction mixture was added a mixture of ethyl acetate and water, and the mixture was adjusted to pH 1.0 with 10% hydrochloric acid. The separated aqueous layer was adjusted to pH 8.0 with potassium carbonate and the mixture was extracted with a solution of ethyl acetate and tetrahydrofuran. The extract was washed with brine and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was purified by alumina column chromatography eluting with a solution of chloroform and methanol (19:1, V/V). The fractions containing object compound were concentrated to give 2-amino-6-[2-(7-methylimidazo[1,2-a]pyridin-2-yl)ethyl]benzoxazole (0.44 g).

reactant | 2-[2-(4-amino-3-hydroxyphenyl)ethyl]-7-methylimidazo[1,2-a]pyridine | 1.5 g | NC1=C(C=C(C=C1)CCC=1N=C2N(C=CC(=C2)C)C1)O | C16H17N3O
reactant | cyanogen bromide | 0.7 g | N#CBr | CBrN
reactant | hydrochloric acid | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-amino-6-[2-(7-methylimidazo[1,2-a]pyridin-2-yl)ethyl]benzoxazole | 0.44 g | NC=1OC2=C(N1)C=CC(=C2)CCC=2N=C1N(C=CC(=C1)C)C2 | C17H16N4O
